US07626042B2
(2) 3-(Morpholinocarbonyl)oxy-N-[3,5-bis(trifluoromethyl)phenyl]-2-naphthamide (Compound No. 82)
Using 3-hydroxy-N-[3,5-bis(trifluoromethyl)phenyl]-2-naphthamide and morpholine-4-carbonyl chloride as the raw materials, the same operation as the Example 71 gave the title compound.

reactant | 3-hydroxy-N-[3,5-bis(trifluoromethyl)phenyl]-2-naphthamide | OC=1C(=CC2=CC=CC=C2C1)C(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C19H11F6NO2
reactant | morpholine-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | 3-(Morpholinocarbonyl)oxy-N-[3,5-bis(trifluoromethyl)phenyl]-2-naphthamide | Yield: 81.2% | O1CCN(CC1)C(=O)OC=1C(=CC2=CC=CC=C2C1)C(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C24H18F6N2O4
